US08247556B2
N-(1-Acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-[(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide
The titled compound was prepared from N-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-fluoro-nicotinamide and C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride by the method described in Step A of Example 1. MS (ES+): 457 (M+H). Calc'd. for C26H28N6O2—456.55.

reactant | N-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-fluoro-nicotinamide | C(C)(=O)N1CC(C2=CC=C(C=C12)NC(C1=C(N=CC=C1)F)=O)(C)C | C18H18FN3O2
reactant | C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1CCC=2C1=NC=CC2CN
product | N-(1-Acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-[(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]nicotinamide | C(C)(=O)N1CC(C2=CC=C(C=C12)NC(C1=C(N=CC=C1)NCC1=C2C(=NC=C1)NCC2)=O)(C)C | C26H28N6O2
